US09428490B2
Synthesis of (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N-(pyrimidin-5-ylmethyl)acrylamide
In a 50 mL, 3N round-bottomed flask equipped with nitrogen inlet, (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.2 g, 1.0 eq.) was charged along with dichloromethane (5 mL, 10V). The reaction mixture was cooled to −20° C. and then added pyrimidine-5-ylmethanamine (0.075 g, 1.2 eq), T3P (50% in EtOAc) (0.4 mL, 1.2 eq) followed by DIPEA (0.2 ml, 2 eq) dropwise into the reaction mixture. The reaction mixture was stirred at −20° C. for another 30 min. The progress of the reaction was followed by TLC analysis on silica gel with 5% Methanol in dichloromethane as mobile phase and visualization with UV. Reaction mixture was concentrated by rotary evaporation (25° C., 20 mm Hg) to afford crude compound. The crude reaction mixture was purified by column chromatography using 60/120 mesh silica and methanol: dichloromethane as mobile phase. The column was packed in dichloromethane and started eluting in MeOH in gradient manner starting with fraction collections (500 mL fractions). The compound started eluting from 4% methanol in dichloromethane. Fractions containing such TLC profile were collected together to obtain pure compound 0.2 g. Yield: 80%.

reactant | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.2 g, 1.0 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | pyrimidine-5-ylmethanamine | 0.075 g, 1.2 eq | N1=CN=CC(=C1)CN | C5H7N3
reactant | T3P | 0.4 mL, 1.2 eq | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 0.2 ml, 2 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | Methanol | CO | CH4O
product | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N-(pyrimidin-5-ylmethyl)acrylamide | 0.2 g, Yield: 80% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NCC=1C=NC=NC1)(F)F | C18H12F6N6O
